US06544976B1
(2S)-Methyl-1-(N-t-butylcarbamoyl)azetidine-2-carboxylate
(2S)-Methyl azetidine-2-carboxylate hydrochloride from Reference Example 1 (185.8 mg, 1.23 mmol, 1.0 eq) was dissolved in dry dichloromethane (10.0 mL) and treated with t-butyl isocyanate (210 μL, 1.84 mmol, 1.5 eq) at about 0° C. under an argon atmosphere. After adding triethylamine (190 μL, 1.36 mmol, 1.1 eq) dropwise, the reaction mixture was warmed to about room temperature and stirred overnight. The solvent was evaporated and the residue was subjected to flash chromatography (1:1 ether:dichloromethane) to give 211.6 mg (80% yield) of the product as a colorless oil. 1H NMR (CDCl3) δ 1.33 (s, 9H); 2.34-2.49 (m, 2H); 3.66-3.76 (m, 1H); 3.80 (s, 3H); 3.90 (q, 1H, J=8.6); 4.61 (t, 1H, J=8.6); 5.07-5.16 (br, 1H).

reactant | (2S)-Methyl azetidine-2-carboxylate hydrochloride | Cl.N1[C@@H](CC1)C(=O)OC
reactant | t-butyl isocyanate | 1.84 mmol, 210 μL, 1.5 eq | C(C)(C)(C)N=C=O | C5H9NO
reactant | triethylamine | 1.36 mmol, 190 μL, 1.1 eq | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10.0 mL | ClCCl | CH2Cl2
product | (2S)-Methyl-1-(N-t-butylcarbamoyl)azetidine-2-carboxylate | 211.6 mg, 80% yield | COC(=O)[C@H]1N(CC1)C(NC(C)(C)C)=O | C10H18N2O3
